US05185448
Bis(1-allyloxypiperidin-4-yl) Sebacate
Following the general procedure of Example 1 using bis(1-hydroxypiperidin-4-yl) sebacate, potassium carbonate and allyl bromide in ethanol solvent, the title compound is obtained.

reactant | bis(1-hydroxypiperidin-4-yl) sebacate | C(CCCCCCCCC(=O)OC1CCN(CC1)O)(=O)OC1CCN(CC1)O | C20H36N2O6
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
reactant | ethanol | C(C)O | C2H6O
product | Bis(1-allyloxypiperidin-4-yl) Sebacate | C(CCCCCCCCC(=O)OC1CCN(CC1)OCC=C)(=O)OC1CCN(CC1)OCC=C | C26H44N2O6
